Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1],6.10838887743
[O:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-0.794009853091
[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:1].[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12],3.98550663261
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][H:3].[O:4]=[C:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],2.0905442074
[H:1].[O:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.7962918317859999
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],1.62624248752
[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3],4.88850178851
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][O:4][C:5]([H:6])[H:7],3.77879751357
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.96220431782
[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2]=[C:3]([O:4])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.93949339328
[H:12].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-1.95431265221
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-5.01772128622
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14].[H:1],3.8807273892
[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])[H:10],3.49485460112
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],6.1588841537
[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[O:7]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-1.5950804183
[O:1]=[C:2]([O:3][H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([O:3][H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1],7.602438084430001
[H:1][C:2]#[C:4][C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:3]>>[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10],-3.95119365947
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8]>>[C:3]#[C:4][C:5]([H:6])([H:7])[H:8].[H:1][O:2],6.7326185600800015
[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3][C:4]([H:5])[O:6][H:7],0.8929653288089999
[H:1][C:2]([H:3])[C:4](=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][C:14]([H:15])([H:16])[H:17],4.57096899852
[C:3]([H:4])(=[C:5][C:9]([H:10])([H:11])[O:12][H:13])[H:8].[H:1][C:2]#[C:6][H:7]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-2.13043814195
[H:1][O:2][C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3][C:10]([H:11])([H:12])[H:13],5.34799767951
[C:1]#[C:2][O:3][C:4][H:5].[O:6][H:7]>>[C:1]#[C:2][O:3][C:4]([H:5])[O:6][H:7],-6.62571846388
[C:1]([C:2]#[C:4][O:5])([H:7])([H:8])[H:9].[C:3]#[C:6]>>[C:1]#[C:2][C:3](=[C:4]=[O:5])[C:6]([H:7])([H:8])[H:9],-5.90006920654
[H:1][C:2]#[C:3][C:4](=[C:5]=[O:6])[C:8]([H:9])([H:10])[H:11].[H:7]>>[H:1][C:2]#[C:3]/[C:4](=[C:5]/[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-0.962532102967
[H:1][C:2](=[C:3]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.8195191118
[H:7].[O:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:8]([H:9])([H:10])[O:11][H:12]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-2.07094825205
[O:1][C:2]#[C:3][O:4]>>[O:1][C:2][C:3].[O:4],4.83404955146
